US07049321B2
Synthesis of 4-(2,4-Dimethoxybenzyl)-8-methyl-1-thia-4,8-diaza-spiro[4.5]decan-3-one, AF286
In a three-necked flask equipped with a magnetic stirrer and Dean-Stark a solution of 1-methyl-4-piperidone (0.27 ml, 2.4 mmol), 2,4-dimethoxybenzylamine hydrochloride (0.72 gr, 3.5 mmol) and mercaptoacetic acid (0.24 ml, 3.5 mmol) in benzene (5 ml) was refluxed for 3 h. The reaction mixture was cooled to room temperature, water (10 ml) was added and the organic phase was separated. The pH of the aqueous phase was adjusted to pH 10 with 2.5N aqueous sodium hydroxide solution and then the aqueous cooled to room temperature, water (10 ml) was added and the organic phase was separated. The pH of the evaporated. Flash chromatography (silica, 10% methanol in chloroform) of the residue gave AF286 (140 mg, 15% yield). 1H-NMR (CDCl3) δ 1.66 (m, 2H), 2.21 (m, 4H), 2.27 (s, 3H, NCH3), 2.77 (m, 2H), 3.64 (s, 2H, SCH2), 3.78 (s, 3H, OCH3), 3.80 (s, 3H, OCH3), 4.52 (s, 2H, NCH2),

reactant | 1-methyl-4-piperidone | 2.4 mmol, 0.27 ml | CN1CCC(CC1)=O | C6H11NO
reactant | 2,4-dimethoxybenzylamine hydrochloride | 3.5 mmol, 0.72 gr | Cl.COC1=C(CN)C=CC(=C1)OC
reactant | mercaptoacetic acid | 3.5 mmol, 0.24 ml | SCC(=O)O | C2H4O2S
reactant | water | 10 ml | O | H2O
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 4-(2,4-Dimethoxybenzyl)-8-methyl-1-thia-4,8-diaza-spiro[4.5]decan-3-one | 15% yield | COC1=C(CN2C(CSC23CCN(CC3)C)=O)C=CC(=C1)OC | C17H24N2O3S
